US04788206
To a stirred solution of 5,5-diphenyl-2,4-pentadienenoic acid (6.00 g) and triethylamine (3.7 mL) in dry tetrahydrofurane (40 mL) at 0°- C. was added a solution of ethyl chloroformate (2.37 mL) in tetrahydrofurane (15 mL) dropwise such that the reaction temperature was maintained at 0° C. After the addition was complete, the reaction was stirred at 0° C. for 15 minutes, then a solution of 3-pyridinebutanamine (3.78 g) in tetrahydrofurane (20 mL) was added dropwise while keeping the reaction at 0° C. The mixture was stirred at 0° C. for 1 hour and then at room temperature for 2 hours before the precipitated triethylamine hydrochloride was removed by filtration. The evaporated filtrate was partitioned between 1N hydrochloric acid solution (80 mL) and ether (80 mL). After the ethereal extract was discarded, the aqueous layer was basified with 4N sodium hydroxide (30 mL) and extracted with ether (4×100 mL). Evaporation of the dried (K2CO3) organic extracts afforded the crude amide which was purified by HPLC (hexane-ethyl acetate-triethylamine; 25:75:2) to provide 3.55 g of (E)-5,5-diphenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide 0.2 molar hydrate as an oil.

reactant | 5,5-diphenyl-2,4-pentadienenoic acid | 6.00 g | C1(=CC=CC=C1)C(=C=C=CC(=O)O)C1=CC=CC=C1 | C17H12O2
reactant | triethylamine | 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.37 mL | ClC(=O)OCC | C3H5ClO2
reactant | 3-pyridinebutanamine | 3.78 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofurane | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-diphenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 0.2 molar, 3.55 g | C1(=CC=CC=C1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC=CC=C1 | C26H26N2O
